US07897767B2
Anhydrous hydrazine (0.47 mL, 15 mmol) was added to a stirred suspension of N-[4-(8-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl)butyl]benzamide (2.8 g, 5.0 mmol) in ethanol (50 mL). After two hours, a solid was isolated by filtration and the filter cake was washed with ethanol. Acetone (25 μL) and methanol (25 mL) were added to the solid and the mixture was stirred overnight. The volatiles were removed under reduced pressure to afford a solid that was triturated with 1 M aqueous sodium hydroxide (10 mL) and 1:1 methanol/acetone (4 mL). The solid was isolated by filtration, washed with water, and dissolved in chloroform (100 mL). The solution was dried over magnesium sulfate, filtered, concentrated under reduced pressure, and dried under vacuum to afford 1.9 g of a N-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}benzamide as a white solid.

reactant | hydrazine | 15 mmol, 0.47 mL | NN | H4N2
reactant | N-[4-(8-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl)butyl]benzamide | 5.0 mmol, 2.8 g | O=C1N(C(C2=CC=CC=C12)=O)OCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCNC(C1=CC=CC=C1)=O | C28H26N8O4
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | N-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}benzamide | 1.9 g | CC1=C(C2=C(C=3N1N=NN3)N=C(N2CCCCNC(C2=CC=CC=C2)=O)CON=C(C)C)C | C23H28N8O2
